US04152319
2,6-di tert.butyl-4-aminophenol was prepared by hydrogenating a mixture of 23.5 grams of 2,6-di tert.butyl-4-nitrosophenol, 2 grams of 5% Palladium on carbon, and 200 milliliters of absolute ethanol in a Parr Pressure Reaction Apparatus. The reduction was accomplished in 1 hour at a maximum hydrogen pressure of 50 psi and a maximum temperature of 50° C. The resulting solution of 2,6-di tert.butyl-4-aminophenol was removed from the Pressure Apparatus and filtered to remove the catalyst.

reactant | 2,6-di tert.butyl-4-nitrosophenol | 23.5 grams | C(C)(C)(C)C1=C(C(=CC(=C1)N=O)C(C)(C)C)O | C14H21NO2
reactant | hydrogen | [H][H] | H2
catalyst | Palladium on carbon | 2 grams | [Pd] | Pd
solvent | ethanol | 200 milliliters | C(C)O | C2H6O
product | 2,6-di tert.butyl-4-aminophenol | C(C)(C)(C)C1=C(C(=CC(=C1)N)C(C)(C)C)O | C14H23NO
